US04723016
The procedure of Example 1 was followed using methyl 2-furoate (2.52 g, 20 mmol), potassium trimethylsilanolate (2.56 g, 20 mmol), dry tetrahydrofuran (50 mL), and a 5 h reaction time. Potassium 2-furoate (2.72 g, 90% yield) was isolated as a light brown solid: 1H NMR (D2O, DSS) δ 6.55 (m, Ar--H, 1H), 7.0 (m, Ar--H, 1H) and 7.6 ppm (m, Ar--H, 1H). Anal. Calcd. for C5H3KO3 : C, 39.99; H, 2.01; K, 26.04. Found: C, 37.22, 37.41, 40.26; H, 2.33, 2.19, 2.34; K, 26.22.

reactant | methyl 2-furoate | 20 mmol, 2.52 g | O1C(=CC=C1)C(=O)OC | C6H6O3
reactant | potassium trimethylsilanolate | 20 mmol, 2.56 g | C[Si]([O-])(C)C.[K+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Potassium 2-furoate | 2.72 g, 90% yield | O1C(=CC=C1)C(=O)[O-].[K+] | InChI=1S/C5H4O3.K/c6-5(7)4-2-1-3-8-4;/h1-3H,(H,6,7);/q;+1/p-1
